US04870074
Preparation of 4-amino-5-chloro-2-methoxy-N-(2-morpholinylmethyl)benzamide
A mixture of 4-amino-N-[(4-benzyl-2-morpholinyl)methyl]-5-chloro-2-methoxybenzamide (5.0 g), ethanol (100 ml), and acetic acid (20 ml) is hydrogenated over 10% palladium on carbon (0.5 g) at 25° C. After the calculated amount of hydrogen is absorbed, the catalyst is filtered off. The filtrate is evaporated under reduced pressure to give the title compound (3.8 g).

reactant | 4-amino-N-[(4-benzyl-2-morpholinyl)methyl]-5-chloro-2-methoxybenzamide | 5.0 g | NC1=CC(=C(C(=O)NCC2CN(CCO2)CC2=CC=CC=C2)C=C1Cl)OC | C20H24ClN3O3
reactant | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 4-amino-5-chloro-2-methoxy-N-(2-morpholinylmethyl)benzamide | 3.8 g | NC1=CC(=C(C(=O)NCC2CNCCO2)C=C1Cl)OC | C13H18ClN3O3
